** sch_path: /home/andre/diy-ic/testbench/aux_amp_tb.sch
**.subckt aux_amp_tb
C2 voutp GND 100f m=1
V2 vdd GND DC 3.3
V4 vinp GND DC 1.65 AC 1.0
L9 voutp vinp 4G m=1
C3 vinp GND 4G m=1
x2 vdd vinm vinp voutp voutm GND aux_amp
C1 voutm GND 100f m=1
L2 voutm vinm 4G m=1
C4 vinm GND 4G m=1
V1 vinm GND DC 1.65 AC -1.0
**** begin user architecture code

.lib cornerMOShv.lib mos_tt
.lib /home/andre/os_eda/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ



.param temp=27
.include aux_amp_tb.save
.control
op
save all
write aux_amp_tb.raw
set appendwrite #writing into the same raw file
ac dec 100 1 100e6
save all

let Av = db(v(voutp))
let phase = 180/3.14*vp(voutp)
let CMRR = db((v(voutp)/v(vinp))/(v(voutp_cmrr)/v(vinp)))
let PSRR = db(v(voutp_psrr)/v(vdd_ac))

echo ---
meas ac gm_db find vdb(voutp) when vp(voutp)=0
meas ac pm_deg find phase when vdb(voutp)=0
meas ac _3db_f when phase=-45
meas ac _0db_f when vdb(voutp)=0
meas ac dc_gain find vdb(voutp) at=1
echo ---

write aux_amp_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  aux_amp.sym # of pins=6
** sym_path: /home/andre/diy-ic/schematic/aux_amp.sym
** sch_path: /home/andre/diy-ic/schematic/aux_amp.sch
.subckt aux_amp vdd vinm vinp voutp voutm vss
*.iopin vss
*.iopin voutm
*.iopin vinp
*.iopin vdd
*.iopin voutp
*.iopin vinm
XM2 net3 vinp net1 net1 sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM3 net4 cm_bias net1 net1 sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM4 net1 nbias vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM6 net3 cm_bias net2 net2 sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM7 net4 vinm net2 net2 sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM8 net2 nbias vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM9 voutm nbias vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM11 voutp nbias vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
V2 pbias_top vss 1.65
V3 pbias vss 1.65
V4 cm_bias vss 1.65
V1 nbias vss 1.65
XM1 voutm pbias net3 net3 sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM5 net3 pbias_top vdd vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM10 net4 pbias_top vdd vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM12 voutp pbias net4 net4 sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
.ends

.GLOBAL GND
.end
